US08278328B2
Description 129. 4-(2-Methyl-1,3-dioxolan-2-yl)-2-nitrophenol. (D129)
A stirred mixture of 1-(4-hydroxy-3-nitrophenyl)ethanone (3.00 g, 16.56 mmol), ethylene glycol (1.385 mL, 24.84 mmol) and p-toluenesulfonic acid monohydrate (0.158 g, 0.828 mmol) in toluene (60 mL) was heated to reflux for 18 hr in a 250 mL round bottom flask fitted with a Dean-Stark apparatus. The mixture was cooled and diluted with EtOAc (80 mL) and then washed with water (3×30 mL) and brine (20 mL), dried (Na2SO4) and concentrated to dryness in vacuo to afford a thick brown oily residue. This was purified by silica gel chromatography eluting with 5-50% Et2O in isohexane. The title product was isolated as a yellow oil (2.41 g, 64.6%).

reactant | 1-(4-hydroxy-3-nitrophenyl)ethanone | 16.56 mmol, 3.00 g | OC1=C(C=C(C=C1)C(C)=O)[N+](=O)[O-] | C8H7NO4
reactant | ethylene glycol | 24.84 mmol, 1.385 mL | C(CO)O | C2H6O2
reactant | p-toluenesulfonic acid monohydrate | 0.828 mmol, 0.158 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | toluene | 60 mL | C1(=CC=CC=C1)C | C7H8
solvent | EtOAc | 80 mL | CCOC(=O)C | C4H8O2
product | 4-(2-Methyl-1,3-dioxolan-2-yl)-2-nitrophenol | CC1(OCCO1)C1=CC(=C(C=C1)O)[N+](=O)[O-] | C10H11NO5
